US06919356B2
Part G. Preparation of trans-4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester
A solution of toluene-4-sulfonic acid 2-(4-fluorophenyl)-ethyl ester (containing 10% by weight of 2-(4-fluorophenyl)ethanol; 206 mg, 630 μmol), trans-4-(benzyl-methyl-amino)-piperidine-3-carboxylic acid ethyl ester dihydrochloride (220 mg, 630 μmol) and potassium carbonate (261 mg, 1.9 mmol) in acetonitrile (6 mL) was heated at reflux for 17 hours. The mixture was cooled and filtered, the solid was washed with acetonitrile, and the filtrate was concentrated under vacuum. The residue was purified by flash chromatography, eluting with 20%, then 30% ethyl acetate in hexane, to provide an oil (164 mg, 65%). 1H NMR (300 MHz, CDCl3) δ7.28 (m, 5H), 7.16 (m, 2H), 6.98 (t, J=9 Hz, 2H), 4.20 (m, 2H), 3.75 (d, J=13 Hz, 1H), 3.48 (d, J=13 Hz, 1H), 3.14 (m, 2H), 2.88 (m, 2H), 2.80 (m, 2H), 2.62 (m, 2H), 2.29 (m, 1H), 2.20 (s, 3H), 1.87 (m, 1H), 1.70 (m, 2H), 1.28 (t, J=7 Hz, 3H).

reactant | toluene-4-sulfonic acid 2-(4-fluorophenyl)-ethyl ester | 630 μmol, 206 mg | FC1=CC=C(C=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C15H15FO3S
reactant | trans-4-(benzyl-methyl-amino)-piperidine-3-carboxylic acid ethyl ester dihydrochloride | 630 μmol, 220 mg | Cl.Cl.C(C)OC(=O)[C@@H]1CNCC[C@H]1N(C)CC1=CC=CC=C1
reactant | potassium carbonate | 1.9 mmol, 261 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | trans-4-(benzyl-methyl-amino)-1-[2-(4-fluorophenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester | 164 mg, 65% | C(C)OC(=O)[C@@H]1CN(CC[C@H]1N(C)CC1=CC=CC=C1)CCC1=CC=C(C=C1)F | C24H31FN2O2
